US04456716
N-n-Butyl-2-(3,5-di-tert-butyl-4-hydroxyphenylthio)succinimide
The procedure of Example 1 is repeated using 11.92 grams 2,6-di-tert-butyl-4-mercaptophenol, 7.66 grams N-n-butylmaleimide, and 0.5 grams triethylamine. The residue is purified by dry column chromatography to give a white solid, m.p. 80°-85° C.

reactant | 2,6-di-tert-butyl-4-mercaptophenol | 11.92 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | N-n-butylmaleimide | 7.66 grams | C(CCC)N1C(C=CC1=O)=O | C8H11NO2
solvent | triethylamine | 0.5 grams | C(C)N(CC)CC | C6H15N
product | N-n-Butyl-2-(3,5-di-tert-butyl-4-hydroxyphenylthio)succinimide | C(CCC)N1C(C(CC1=O)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C22H33NO3S
